US06429212B1
Synthesis of N-phenyl-homophthalimide (Compound No.A-1)
0.871 g (5.37 mmol) of homophthalic anhydride and 0.4 g (4.30 mmol) of aniline were mixed, and melted at a temperature of 200° C. for 1 hour. The reactant was dissolved in ethyl acetate, washed with aqueous NaHCO3 solution, with water and then with saturated aqueous sodium chloride, dried over anhydrous MgSO4, and subjected to filtration with a folded filter paper. The filtrate was concentrated and evaporated to dryness. The residue was recrystallized by using a mixture of CH2Cl2 and hexane, to obtain 0.565 g (yield 68%) of the specified substance as light yellow granulated crystals.

reactant | homophthalic anhydride | 5.37 mmol, 0.871 g | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
reactant | aniline | 4.30 mmol, 0.4 g | NC1=CC=CC=C1 | C6H7N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-phenyl-homophthalimide | yield 68% | C1(=CC=CC=C1)N1C(CC=2C(C1=O)=CC=CC2)=O | C15H11NO2
